US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]-4-methoxyaniline
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl) benzoic acid (100 mg, 0.2544 mmol) was dissolved in methylene chloride (30 ml), then p-anisidine (56 mg, 0.4552 mmol), triethylamine (75 mg, 0.7425 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (126 mg, 1.3663 mmol) were added thereto at room temperature and the mixture was stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer silica gel (hexane:ethyl acetate=1:4) to give the title compound (33 mg, 0.0963 mmol, 38%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl) benzoic acid | 0.2544 mmol, 100 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=NC=C1)C)=O | C22H19NO6
reactant | p-anisidine | 0.4552 mmol, 56 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 0.7425 mmol, 75 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.3663 mmol, 126 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]-4-methoxyaniline | 0.0963 mmol, 33 mg, 38% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)C1=CC=NC=C1)C)=O | C29H26N2O6
